US07166622B2
To a solution of 4-chlorobenzenesulfonyl chloride (1.93 g, 9.1 mmol) in CH3CN (25 mL) and (S)-isoleucinol (1.07 g, 9.1 mmol) was added Et3N (1.91 mL, 13.7 mmol). The reaction mixture was stirred at 25° C. for 30 minutes. The solvent was removed and the oil was dissolved in CH2Cl2 (20 mL). The solution was washed with water (2×20 mL) and dried over Na2SO4. The solvent was removed to give N-4-chloro benzenesulfonyl isoleucinol, which was carried on without further purification.

reactant | 4-chlorobenzenesulfonyl chloride | 9.1 mmol, 1.93 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | (S)-isoleucinol | 9.1 mmol, 1.07 g | N[C@@H]([C@@H](C)CC)CO | C6H15NO
reactant | Et3N | 13.7 mmol, 1.91 mL | CCN(CC)CC | C6H15N
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | N-4-chloro benzenesulfonyl isoleucinol | ClC1=CC=C(C=C1)S(=O)(=O)N[C@@H]([C@@H](C)CC)CO | C12H18ClNO3S
